US04242344
A solution of 6-chloroimidazo[1,2-a]pyrazine (3.07 g, 0.020 mol) in acetonitrile (50 ml) containing 1.01 g (0.010 mol) of triethylamine is treated with a stream of trifluoromethanesulfenyl chloride gas at 25° C. under nitrogen. After 1 hour the solution is flushed with nitrogen, concentrated under vacuum, and the residue partitioned between water-chloroform. The chloroform extract is dried over sodium sulfate, filtered and concentrated under vacuum to give crude 6-chloro-3-trifluoromethylthioimidazo[1,2-a]pyrazine which is purified by fractional sublimation.

reactant | 6-chloroimidazo[1,2-a]pyrazine | 0.020 mol, 3.07 g | ClC=1N=CC=2N(C1)C=CN2 | C6H4ClN3
reactant | triethylamine | 0.010 mol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfenyl chloride | FC(SCl)(F)F | CClF3S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-chloro-3-trifluoromethylthioimidazo[1,2-a]pyrazine | ClC=1N=CC=2N(C1)C(=CN2)SC(F)(F)F | C7H3ClF3N3S
